US05532243
Cis-2-Benzoyl-6-(4'-fluorophenyl)-6-hydroxydecahydroisoquinoline
Following the general procedure described in Example 25, a solution of p-fluorophenyl magnesium bromide in THF (1.0M, 2.61 mL, 2.61 mmol) was reacted with cis-2-benzoyl-6-oxodecahydroisoquinoline (670 mg, 2.61 mmol) in anhydrous THF at -78° C. Column chromatography (ethyl acetate) afforded the product, a solid (478 mg):mp 84°-85° C.; NMR (CDCl3, 200 MHz): 7.5-7.35 (m, 7H), 7.0 (t, 2H, J=8), 4.65-4.35 (m, 1H), 3.8-3.6 (m, 1H), 3.3-3.1 (m, 1H), 3.1-2.8 (m, 1H), 2.65-2.35 (m, 1H), 2.1-1.4 (m, 10 H); Anal. Calcd for C22H24FNO2 : C, 74.76, H, 6.84, N, 3.96, F, 5.38; Found: C, 74.59, H, 6.93, N, 3.79, F, 5.53.

reactant | p-fluorophenyl magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | cis-2-benzoyl-6-oxodecahydroisoquinoline | 2.61 mmol, 670 mg | C(C1=CC=CC=C1)(=O)N1C[C@H]2CCC(C[C@H]2CC1)=O | C16H19NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2.61 mmol, 1.0M, 2.61 mL | C1CCOC1 | C4H8O
product | Cis-2-Benzoyl-6-(4'-fluorophenyl)-6-hydroxydecahydroisoquinoline | C(C1=CC=CC=C1)(=O)N1C[C@H]2CCC(C[C@H]2CC1)(O)C1=CC=C(C=C1)F | C22H24FNO2
